US07868188B2
N-[2-Chloro-5-(2-methylamino-4-methyl-1,3-thiazol-5-yl)pyridin-3-yl]methanesulfonamide
A mixture of N-[2-chloro-5-(2-chloro-4-methyl-1,3-thiazol-5-yl)pyridin-3-yl]-N-(methylsulfonyl)methanesulfonamide (94 mg) and a 13% solution of methylamine in ethanol (5.0 mL) was stirred and heated to 120° C. in a sealed glass tube in a microwave reactor for 2.5 hours. The resultant mixture was evaporated. Ethanol was added and the mixture was re-evaporated. The material so obtained was purified by reversed phase preparative HPLC. There was thus obtained the title compound (25 mg); 1H NMR Spectrum: (DMSOd6) 2.23 (s, 3H), 2.83 (d, 3H), 3.13 (s, 3H), 7.76 (s, 1H), 7.82 (s, 1H), 8.23 (s, 1H), 9.77 (s, 1H); Mass Spectrum: M+H+ 333.

reactant | N-[2-chloro-5-(2-chloro-4-methyl-1,3-thiazol-5-yl)pyridin-3-yl]-N-(methylsulfonyl)methanesulfonamide | 94 mg | ClC1=NC=C(C=C1N(S(=O)(=O)C)S(=O)(=O)C)C1=C(N=C(S1)Cl)C | C11H11Cl2N3O4S3
reactant | methylamine | CN | CH5N
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | N-[2-Chloro-5-(2-methylamino-4-methyl-1,3-thiazol-5-yl)pyridin-3-yl]methanesulfonamide | 25 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=C(N=C(S1)NC)C | C11H13ClN4O2S2
